US08466150B2
3-hydroxy-4,5,6,7-tetrahydroisobenzofuran-1(3H)-one
To a solution of 1-cyclohexene-1,2-dicarboxylic anhydride (25.2 g, 165.6 mmol) in tetrahydrofuran (125 mL) placed in an ice bath was added sodium borohydride (1.51 g, 39.97 mmol). The ice bath was removed and the mixture was stirred at room temperature for 30 minutes, and under reflux for 5 hours. After cooling to room temperature, 1N HCl was added, and the reaction mixture concentrated. The residue was partitioned between ethyl acetate and brine. The organic layer was washed with brine, water and concentrated. The residue was purified by flash chromatography on silica gel eluting with 50% ethyl acetate in hexanes to provide the title compound. MS (ESI) m/z 155 (M+H)+.

reactant | 1-cyclohexene-1,2-dicarboxylic anhydride | 165.6 mmol, 25.2 g | C12=C(CCCC1)C(=O)OC2=O | C8H8O3
reactant | sodium borohydride | 39.97 mmol, 1.51 g | [BH4-].[Na+]
solvent | tetrahydrofuran | 125 mL | O1CCCC1 | C4H8O
product | 3-hydroxy-4,5,6,7-tetrahydroisobenzofuran-1(3H)-one | OC1OC(C=2CCCCC12)=O | C8H10O3
